US03974284
In a reaction vessel, 1.95 g (0.08 mole) of magnesium chips under dry nitrogen is covered with 12 ml of abs. tetrahydrofuran, and corroded with a trace of iodine and 0.1 ml of ethylbromide. While stirring is maintained, 10.7 g (0.08 mole) of 1-methyl-4-chloropiperidine, dissolved in 30 ml of abs. tetrahydrofuran, is added dropwise at 60° in such a manner that the reaction mixture remains boiling. Refluxing is performed for a further 30 minutes until all the magnesium is dissolved. To this Grignard solution cooled to 5° is then added dropwise at 5-10° in the course of 30 minutes, with stirring, 4.46 g (0.02 mole) of 1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cyclohepten-11-one dissolved in 20 ml of abs. tetrahydrofuran. The reaction mixture is subsequently heated to ca. 20° and then stirred into 350 ml of a 3% ammonium chloride solution. The reaction product precipitated in crystalline form is filtered off with suction, washed with water and dried in a water-jet vacuum at ca. 50° to obtain 4-(11-hydroxy-1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cyclohepten-11-yl)-1-methyl-piperidine; M.P. 239°-242°.

reactant | magnesium | 0.08 mole, 1.95 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | ethylbromide | 0.1 ml | C(C)Br | C2H5Br
reactant | 1-methyl-4-chloropiperidine | 0.08 mole, 10.7 g | CN1CCC(CC1)Cl | C6H12ClN
reactant | 1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cyclohepten-11-one | 0.02 mole, 4.46 g | C12C3C4=C(C(C5=C(C31)C=CC=C5)C2=O)C=CC=C4 | C17H12O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(11-hydroxy-1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cyclohepten-11-yl)-1-methyl-piperidine | OC1(C2C3C4=C(C1C1=C(C32)C=CC=C1)C=CC=C4)C4CCN(CC4)C | C23H25NO
